US08703795B2
a) 4-Hydroxy-7-trimethylsilanylethynyl-thieno[2,3-c]pyridine-5-carboxylic acid butyl ester
A mixture of 7-bromo-4-hydroxy-thieno[2,3-c]pyridine-5-carboxylic acid butyl ester (example 43 a, 165 mg, 0.5 mmol), ethynyl-trimethyl-silane (87 μl, 0.6 mmol), dichlorobis(triphenylphosphine)palladium(II) (11 mg, 0.015 mmol), CuI (5 mg, 0.025 mmol), and triethylamine (1.5 ml) was heated in a microwave oven at 100° C. with stirring for 15 min. After cooling to ambient temperature water (20 ml) was added and the mixture was extracted with diethylether (1×30 ml). The organic phase was dried over MgSO4. Then silica gel was added and the mixture concentrated in vacuo. The residue was added on top of a short column filled with silica gel. Elution with ethyl acetate:hexanes=9:1 and in vacuo concentration gave the title compound as a dark oil (75 mg); MS-(+)-ion: MS-(+)-ion: M+1=348.4.

reactant | 7-bromo-4-hydroxy-thieno[2,3-c]pyridine-5-carboxylic acid butyl ester | C(CCC)OC(=O)C=1C(=C2C(=C(N1)Br)SC=C2)O | C12H12BrNO3S
reactant | ethynyl-trimethyl-silane | 0.6 mmol, 87 μl | C(#C)[Si](C)(C)C | C5H10Si
reactant | triethylamine | 1.5 ml | C(C)N(CC)CC | C6H15N
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.015 mmol, 11 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.025 mmol, 5 mg | [Cu]I
solvent | water | 20 ml | O | H2O
product | 4-Hydroxy-7-trimethylsilanylethynyl-thieno[2,3-c]pyridine-5-carboxylic acid butyl ester | 75 mg | C(CCC)OC(=O)C=1C(=C2C(=C(N1)C#C[Si](C)(C)C)SC=C2)O | C17H21NO3SSi
